US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride (3.87 g) as a starting compound, 6-bromo-1-(2,4-dihydroxyphenyl)-1-hexanone (3.00 g) and triethylamine (6.5 ml) were reacted and purified in the same manner as in Example 172 to give 0.97 g of 4-amino-5-chloro-2-methoxy-N-((1-(6-(2,4-dihydroxyphenyl)-6-oxohexyl)piperidin-4-yl)methyl)benzamide, m.p. 96°-99° C.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | 3.87 g | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | 6-bromo-1-(2,4-dihydroxyphenyl)-1-hexanone | 3.00 g | BrCCCCCC(=O)C1=C(C=C(C=C1)O)O | C12H15BrO3
solvent | triethylamine | 6.5 ml | C(C)N(CC)CC | C6H15N
product | 4-amino-5-chloro-2-methoxy-N-((1-(6-(2,4-dihydroxyphenyl)-6-oxohexyl)piperidin-4-yl)methyl)benzamide | 0.97 g | NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCC(=O)C2=C(C=C(C=C2)O)O)C=C1Cl)OC | C26H34ClN3O5
